US05723705
7 g of indene in 50 cm3of THF were reacted with 24 cm3 of butyllithium (2.5-molar in hexane) at 0° C. under inert conditions. The mixture was heated to room temperature, added dropwise to a solution of 10 g of dimesityldichlorosilane in 40 cm3 of THF, and the mixture was refluxed for 4 hours. Decomposition of the batch with water, extraction with diethyl ether and chromatography on SiO2 using 2:1 toluene/hexane gave 3.28 g of dimesitylbis(indenyl)silane as a solid. MS(m/e,I rel %): 496 (100, M+); 1H NMR in CDCl3 : 2.22 ppm (12 H, s), 2.27 ppm (6 H, s), 3.40 ppm (4 H, s), 6.8-7.4 ppm (14 H, m).

reactant | indene | 7 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | butyllithium | 2.5-molar, 24 cm3 | C(CCC)[Li]
reactant | dimesityldichlorosilane | 10 g | C1(=C(C(=CC(=C1)C)C)[Si](Cl)(Cl)C1=C(C=C(C=C1C)C)C)C | C18H22Cl2Si
solvent | THF | 40 cm3 | C1CCOC1 | C4H8O
product | dimesitylbis(indenyl)silane | 3.28 g | C1(=C(C(=CC(=C1)C)C)[Si](C1C=CC2=CC=CC=C12)(C1C=CC2=CC=CC=C12)C1=C(C=C(C=C1C)C)C)C | C36H36Si
